US08895582B2
To a suspension of 3-fluoro-DL-phenylalanine (100 g) in conc. HCl (1.0 L) was added aq. formaldehyde solution (37% wt.; 400 mL). The reaction mixture was heated to 90° C. and stirred for 3.5 h, then cooled to RT and stirred overnight and filtered. The filtrate was concentrated and the residue was combined with the precipitate to give 6-fluoro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid, which was used without further purification. LRMS (M+H+) m/z 196.1.

reactant | 3-fluoro-DL-phenylalanine | 100 g | FC=1C=C(CC(N)C(=O)O)C=CC1 | C9H10FNO2
reactant | formaldehyde | 400 mL | C=O | CH2O
solvent | HCl | 1.0 L | Cl | ClH
product | 6-fluoro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | FC=1C=C2CC(NCC2=CC1)C(=O)O | C10H10FNO2
